US08669361B2
4-Nitro-1H-pyrazole (150 mg, 1.33 mmol) and 1,1-difluoro-2-iodo-ethane (509 mg, 2.65 mmol) were dissolved in acetonitrile (5 mL). Cesium carbonate (917 mg, 2.79 mml) was added and the mixture was heated at 100° C. for 40 min. After cooling down to room temperature, the reaction was diluted with sat. ammonium chloride and extracted with methylene chloride (3×). The combined organic layers were dried over sodium sulfate, filtered and the filtrate was concentrated to give 1-(2,2-difluoroethyl)-4-nitro-pyrazole (237 mg) as a light yellow solid.

reactant | 4-Nitro-1H-pyrazole | 1.33 mmol, 150 mg | [N+](=O)([O-])C=1C=NNC1 | C3H3N3O2
reactant | 1,1-difluoro-2-iodo-ethane | 2.65 mmol, 509 mg | FC(CI)F | C2H3F2I
reactant | Cesium carbonate | 917 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
solvent | ammonium chloride | [Cl-].[NH4+]
product | 1-(2,2-difluoroethyl)-4-nitro-pyrazole | 237 mg | FC(CN1N=CC(=C1)[N+](=O)[O-])F | C5H5F2N3O2
